US07402680B2
1-Benzyl-3-p-tolyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine
The title compound (89.7 mg) was prepared from 0.51 g of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester, 272 μL of benzylamine, and 0.41 g of 1-methyl-4-(2-nitro-vinyl)-benzene. MS (ESI): exact mass calculated for C21H22N2, 302.18; found, m/z 303.2 [M+H]+. 1H NMR (500 MHz, CD3OD): 7.35-7.31 (m, 2H), 7.29-7.25 (m, 1H), 7.23-7.20 (m, 2H), 7.18-7.14 (m, 4H), 7.06 (s, 1H), 5.13 (s, 2H), 4.33 (s, 2H), 3.49 (t, J=6.3 Hz, 2H), 2.86 (t, J=6.3 Hz, 2H).

reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 0.51 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | benzylamine | 272 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | 1-methyl-4-(2-nitro-vinyl)-benzene | 0.41 g | CC1=CC=C(C=C1)C=C[N+](=O)[O-] | C9H9NO2
product | 1-Benzyl-3-p-tolyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 89.7 mg | C(C1=CC=CC=C1)N1C=C(C=2CNCCC21)C2=CC=C(C=C2)C | C21H22N2
